US08461158B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole (0.397 g, 1 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate (0.464 g, 1.5 mmol), PdCl2(dppf) (56 mg), and 2 M Na2CO3 solution (8 mL) in dioxane (40 mL) was refluxed under nitrogen for 2 hrs. The dioxane was removed under vacuum and the residue was extracted into CH2Cl2. Chromatography on silica eluting with CH2Cl2/EtOAc (95:5) gave 0.51 g (94% yield) of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate: mp (MeOH) 223-225° C.; 1H NMR (CDCl3) δ 8.00 (dd, J=8.4, 0.6 Hz, 1H), 7.56 (t, JHF=53.5 Hz, 1H), 7.39 (t, J=8.2 Hz, 1H), 7.38 (m, 1H), 6.85 (d, J=7.7 Hz, 1H), 4.23 (br d, J=3.0 Hz, 2H), 4.06 (s, 3H), 4.01 (m, 2H), 3.95 (m, 2H), 3.82 (m, 4H), 3.65 (t, J=5.7 Hz, 2H), 2.69 (m, 2H), 1.54-1.45 (m, 2H), 1.50 (s, 9H); Anal. Calcd. for C26H31F2N7O4: C, 57.45; H, 5.75; N, 18.0. Found: C, 57.4; H, 5.9; N, 18.15%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 1 mmol, 0.397 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 1.5 mmol, 0.464 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | Na2CO3 | 2 M, 8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 56 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.51 g, 94% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C=1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H31F2N7O4
